US06077864
3-(4-Methoxyphenylsulfonyl)propenoic acid (200 mgs), excess furan (5.0 ml), and dry toluene (5.0 ml) were combined and warmed to 55° C. (at which time starting material went into solution) for overnight. The cooled reaction was concentrated in vacuo to a tan solid which was a mixture of starting material and product. The material was taken up in toluene (5 ml) and furan (10 ml) and heated to 69° C. overnight. The cooled reaction mixture was concentrated in vacuo to give 251 mgs of crude 3-(4-Methoxyphenylsulfonyl)-7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid as a dark tan solid.

reactant | 3-(4-Methoxyphenylsulfonyl)propenoic acid | 200 mgs | COC1=CC=C(C=C1)S(=O)(=O)C=CC(=O)O | C10H10O5S
reactant | furan | 5.0 ml | O1C=CC=C1 | C4H4O
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Methoxyphenylsulfonyl)-7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid | 251 mgs | COC1=CC=C(C=C1)S(=O)(=O)C1C(C2C=CC1O2)C(=O)O | C14H14O6S
